US04785010
1-(2-(Ethoxycarbonyl)-ethyl)-2-(phthalimido-methyl)-5-methyl-pyrrole
3.9 g (0.015 mol) of 6-phthalimido-2,5-hexanedione, 3.1 g (0.02 mol) of β-alanine ethyl ester hydrochloride and 3 ml (0.02 mol) of triethylamine are stirred in 80 ml of glacial acetic acid at 50° C. for 8 hours and the mixture is worked up as in Example 27.

reactant | 6-phthalimido-2,5-hexanedione | 0.015 mol, 3.9 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | β-alanine ethyl ester hydrochloride | 0.02 mol, 3.1 g | Cl.C(C)OC(CCN)=O
reactant | triethylamine | 0.02 mol, 3 ml | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 1-(2-(Ethoxycarbonyl)-ethyl)-2-(phthalimido-methyl)-5-methyl-pyrrole | C(C)OC(=O)CCN1C(=CC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C19H20N2O4
